US03962443
Ethyl 8-(2-chloroethyl)-5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 69)
To a solution of 8.0 g of ethyl 5,8-dihydro-8-(2-hydroxyethyl)-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate in 80 ml of chloroform was added with stirring 6 ml of thionyl chloride, the resulting mixture was allowed to react at room temperature for 30 minutes and then heated to refux for 2 hours. After removal of the solvent and an excess of the reagent, the residue was taken up in chloroform. The chloroform solution was washed with water, dried and the solvent distilled off. The solid obtained was recrystallized from ethyl acetate to give 6.9 g of the product, m.p. 154° - 155°C.

reactant | ethyl 5,8-dihydro-8-(2-hydroxyethyl)-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 8.0 g | OCCN1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)OCC | C17H23N5O4
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 8-(2-chloroethyl)-5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 6.9 g | ClCCN1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)OCC | C17H22ClN5O3
